Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bradycardia, fatigue
 
Major Surgical or Invasive Procedure:
Pacemaker placement (___)

 
History of Present Illness:
___ ___ speaking male w/ hx of COPD, HTN, CKD, anemia, 
meningioma and dementia who presenting for bradycardia.

The patient is a resident at ___ and has baseline 
dementia. His family reports that his has had progressive 
weakness and fatigue for the past several weeks. He has a 
history of falls, but none recently. The patient and family deny 
that he has had syncope, chest pain, shortness of breath, new 
fevers or
chills, leg swelling, lightheadedness or dizziness. The patient 
was ultimately brought to the ED from his rehab facility due to 
his increasing weakness and acute change in mobility. 

In the ED initial vitals were: T 97.7, HR 31, BP 147/42, RR 14,
O2 99% on RA.

Exam notable for warm extremities, slow HR, but overall
unremarkable.
  
Labs were significant for:  
 1. BMP: Na 148, K 3.9, Cl 112, CO2 21, BUN 39, Cr 1.5   
 2. CBC: WBC 10.9, Hbg 12.0, Plt 244
 3. Trop-T 0.05
 4. Lactate 2.7

Images notable for:
CXR No focal consolidation or pulmonary edema. Right 
paratracheal
opacity with leftward indentation on the trachea may be due 
to an enlarged right lobe of the thyroid, underlying thyroid
lesion not excluded.  Consider outpatient dedicated thyroid
imaging if this has not been recently performed. 

TELEMETRY: 2:1 block with intermittent complete heart block.  No
significant change in degree of block with carotid sinus massage
or exercise.

EKG: Complete heart block with atrial rate of approximately 65,
ventricular rate of approximately 34.  Right bundle branch block
and left anterior fascicular block.  QTc 420.

Patient was given IVF and evaluated by cardiology. It was
difficult to discern whether or no the 2nd degree represented
nodal or infranodal disease based on exam maneuvers. Given the
high degree AV block, the patient was taken to the EP cath lab
for pacemaker placement. The patient tolerated the procedure
well, and was transferred to ___ for further management.

On the floor the patient was sleepy post procedure, but
comfortable. ___ speaking and disoriented but without
complaints per his family who was at bedside. His daughter and
grandson corroborated the above history. 

 
Past Medical History:
PAST MEDICAL HISTORY:  
1. CARDIAC RISK FACTORS  
- HTN
2. CARDIAC HISTORY  
- CHB (s/p PPM ___
3. OTHER PAST MEDICAL HISTORY  
- CODP
- CKD
- Anemia
- Meningioma
- Neck mass (Slowly enlarging L sided neck mass, benign per 
family)

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  
 
Physical Exam:
Admission: 
VS: T 97.9, BP 157/66, HR 60 paced, RR 18, O2 94% on RA 
GENERAL: Well developed, well nourished and in NAD. AOx1
HEENT: Normocephalic atraumatic. Large non tender L sided neck
mass, w/o fluctuance or erythema.  
NECK: Supple. JVP not elevated.  
CARDIAC: RRR, ___ holosystolic murmur heard best at apex.
CHEST/LUNGS: PPM insertion site dressed cleanly w/o surrounding
ecchymosis, erythema or fluctuance. Lungs CTAB anteriorly.
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No cyanosis, 1+ edema in ___
bilaterally. 
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 

Discharge: 
GENERAL: Well developed, well nourished and in NAD. AOx1. Alert 
and interactive though confused even when interviewed in 
___. 
HEENT: Normocephalic atraumatic. Large non tender L sided neck
mass, w/o fluctuance or erythema.  
NECK: Supple. JVP not elevated.  
CARDIAC: RRR, ___ holosystolic murmur heard best at apex.
CHEST/LUNGS: PPM insertion site dressed cleanly w/o surrounding
ecchymosis, erythema or fluctuance. Lungs CTAB anteriorly.
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No cyanosis, 1+ edema in ___
bilaterally. 
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 
 
Pertinent Results:
___ 07:12AM BLOOD WBC-12.9* RBC-3.50* Hgb-11.3* Hct-34.2* 
MCV-98 MCH-32.3* MCHC-33.0 RDW-13.8 RDWSD-49.6* Plt ___
___ 11:50AM BLOOD ___ PTT-27.7 ___
___ 07:12AM BLOOD Glucose-84 UreaN-22* Creat-1.0 Na-143 
K-3.5 Cl-107 HCO3-22 AnGap-14
___ 07:12AM BLOOD Calcium-8.2* Phos-3.1 Mg-1.7

CXR: 
In comparison with the study of ___, the there has been 
placement of a dual channel ppm via a left subclavian approach 
with leads extending to the right atrium and right ventricle.  
No evidence of post procedure pneumothorax. Little change in the 
appearance of the heart and lungs.  Right paratracheal 
opacification is again consistent with enlargement of the 
thyroid. Of incidental note is an old healed angulated fracture 
of the distal left clavicle. 

Discharge Labs

___ 07:12AM BLOOD WBC-12.9* RBC-3.50* Hgb-11.3* Hct-34.2* 
MCV-98 MCH-32.3* MCHC-33.0 RDW-13.8 RDWSD-49.6* Plt ___
___ 07:12AM BLOOD Glucose-84 UreaN-22* Creat-1.0 Na-143 
K-3.5 Cl-107 HCO3-22 AnGap-14
___ 07:12AM BLOOD Calcium-8.2* Phos-3.1 Mg-1.___ Man w/ hx of COPD, HTN, CKD, anemia, meningioma, and dementia 
who is presented for bradycardia, found to be in 2nd degree AV 
block with intermittent complete heart block, now s/p PPM. 
Placement was uncomplicated and device was functioning well at 
time od discharge. He received 3d of vancomycin ppx for 
infection. His energy, blood pressure, ___, and alertness 
improved after pacemaker placement. He developed diarrhea on 
___ and c dificile testing was positive. He was started on a 
10d course of PO vancomycin for this and discharged on it. 

[] Check chem 10 in 3 days to ensure Cr and Na remain normal 
[] Follow wound care instructions for Pacemaker management
[] Ensure patient has device clinic appointment in ___ weeks at 
___. 
[] Continue oral vancomycin for 10d for c dificile (___) 
[] You should receive a call from our device clinic for an 
appoinment in ___ weeks. Please call ___ if you do not 
hear from them in 2 days to schedule your appointment. 
[] You should also be connected to an appointment in 1 month 
with Dr. ___. Please call his clinic if you do not hear 
from them within 2 days to set this up at ___. 
[] Wound care for pacemaker: Pacemaker dressing was removed 
prior to discharge. Instuctions for care: 
- You may shower but avoid allowing water to spray directly over 
the incision. Do not rub soap in the area of the incision. Do 
not remove the paper strips if they are still present, as they 
will fall off on their own over the next several weeks. Do not 
apply lotion, or powder to the incision. Do not scratch or rub 
the incision. 
 - Please follow the instructions in the Pacemaker Care 
Discharge Instruction packet that you received. 
[]  Right paratracheal opacity with leftward indentation on the 
trachea may be due to an enlarged right lobe of the thyroid, 
underlying thyroid lesion not excluded.  Consider outpatient 
dedicated thyroid imaging if this has not been recently 
performed. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ferrous Sulfate 325 mg PO BID 
2. Omeprazole 20 mg PO DAILY 
3. amLODIPine 5 mg PO DAILY 
4. ClonazePAM 0.25 mg PO QHS 

 
Discharge Medications:
1.  Vancomycin Oral Liquid ___ mg PO QID  
2.  amLODIPine 5 mg PO DAILY  
3.  ClonazePAM 0.25 mg PO QHS  
4.  Ferrous Sulfate 325 mg PO BID  
5.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Complete heart block s/p pacemaker placement
Fatigue 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you here at ___. You were 
admitted because of fatigue and we found you to have a very slow 
heart rate and an abnormal heart rhythm. We placed a pacemaker 
which will make sure that you heart rate does not slow below 60. 


The procedure went well. You should follow up with the 
Electrophysiologists in their Device clinic to make sure the 
pacemaker is continuing to work well. 

What to do when you go home: 
- Please make sure you are contacted for an appointment in our 
device clinic within ___ weeks. Please call the clinic at the 
number listed to set this up if you do not hear from them. 
- You also developed a stool infection called C dificile. You 
will need to take an antibiotic for 10 days until this infection 
is clear. 

Sincerely, 
Your Care Team
 
Followup Instructions:
___